US07994185B2
Step A: 2-Propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate
To a solution of 2-propen-1-yl [3-[(2-chloro-4-pyrimidinyl)acetyl]-2-(methyloxy)phenyl]carbamate (30 g, 82.9 mmol) in DCM (300 mL), NBS (14.8 g, 82.9 mmol) was added and the solution was allowed to stir at rt for 30 min. The reaction mixture was then concentrated on the rotovap and the resulting oil was diluted with DMSO (240 mL) and 4-morpholinecarbothioamide (14.8 g 101 mmol) was added at once. The reaction was complete after stirring 1 h at rt. The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product which was purified by column chromatography on silica gel (DCM:petroleum ether 2:1) to afford the product of Step A (40 g, 98.8% yield) which was used directly in the next step.

reactant | 2-propen-1-yl [3-[(2-chloro-4-pyrimidinyl)acetyl]-2-(methyloxy)phenyl]carbamate | 82.9 mmol, 30 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)OC | C17H16ClN3O4
reactant | NBS | 82.9 mmol, 14.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-morpholinecarbothioamide | 101 mmol, 14.8 g | N1(CCOCC1)C(N)=S | C5H10N2OS
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 240 mL | CS(=O)C | C2H6OS
product | 2-Propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate | 40 g, 98.8% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC=C)=O)OC | C22H22ClN5O4S
